L0 (net13 net25) inductor
M9 (net24 net13 VSS VSS) nmos4
M8 (net9 net25 VSS VSS) nmos4
M7 (net25 VCONT4 net24 VSS) nmos4
M6 (net9 VCONT3 net13 VSS) nmos4
M3 (VCONT2 net25 VCONT2 VSS) nmos4
M2 (VCONT2 net13 VCONT2 VSS) nmos4
M1 (VCONT1 net25 VCONT1 VSS) nmos4
M0 (VCONT1 net13 VCONT1 VSS) nmos4
M5 (net24 net13 IB1 VDD) pmos4
? Missing component
